US07763639B2
3-(1-ETHYL-1,2,3,6-TETRAHYDROPYRIDIN-4-YL)-2-FLUORO-N,N-DIMETHYLBENZENESULFONAMIDE
Preparation according to preparation 6: 2-fluoro-N,N-dimethyl-3-pyridin-4-ylbenzene sulfonamide (0.59 g, 2.11 mmol), 1-iodoethane (3 ml), ethanol (40 ml), sodium borohydride (0.4 g, 10.5 mmol). Yield: 0.27 g. MS m/z (rel. intensity, 70 eV) 312 (M+, bp), 311 (33), 297 (93), 146 (36), 110 (32).

reactant | 2-fluoro-N,N-dimethyl-3-pyridin-4-ylbenzene sulfonamide | 2.11 mmol, 0.59 g | FC1=C(C=CC=C1C1=CC=NC=C1)S(=O)(=O)N(C)C | C13H13FN2O2S
reactant | 1-iodoethane | 3 ml | ICC | C2H5I
reactant | sodium borohydride | 10.5 mmol, 0.4 g | [BH4-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-(1-ETHYL-1,2,3,6-TETRAHYDROPYRIDIN-4-YL)-2-FLUORO-N,N-DIMETHYLBENZENESULFONAMIDE | C(C)N1CCC(=CC1)C=1C(=C(C=CC1)S(=O)(=O)N(C)C)F | C15H21FN2O2S
